Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
primary hyperaldosteronism  
 
Major Surgical or Invasive Procedure:
laparoscopic right adrenalectomy  

 
History of Present Illness:
Mr. ___ is a ___ year old man with a longstanding 
history of hypertension. He had been on multiple medications and 
had a biochemical diagnosis of primary hyperaldosteronism.  The 
patient then underwent adrenal vein sampling, which localized to 
the right bside and he was consented therefore to a laparoscopic 
right adrenalectomy and brought to the operating room for the 
above-stated procedure.

 
Past Medical History:
PMH:
- Type 2 diabetes (last HbA1C 6.9%) 
- Hyperaldosteronism
- RBBB 

PSH:
inguinal hernia repair

 
Social History:
___
Family History:
HTN in mother and sister
T2DM in mother and sister
Head/neck ca. in brother  
 
Physical Exam:
General: alert, oriented, NAD 
Chest: Symmetric. CTAB. No abnormal breath sounds.
Cards: RRR. Nl S1/S2. grade ___ systolic ejection murmur best
heard in the LUSB,  No rubs or gallops.,
Abd: Abdomen is distended. Non tympanitic. No masses. Nontender
to palpation. Laparascopy port sites are intact without 
dehiscence, drainage, bleeding.
Neuro: Sensation is grossly intact. Coherent.

 
Pertinent Results:
___ 07:20AM BLOOD WBC-7.0 RBC-3.90* Hgb-10.7* Hct-33.6* 
MCV-86 MCH-27.4 MCHC-31.8* RDW-14.6 RDWSD-45.9 Plt ___
___ 07:20AM BLOOD Glucose-121* UreaN-18 Creat-1.1 Na-145 
K-4.0 Cl-102 HCO3-33* AnGap-10
___ 07:20AM BLOOD Calcium-8.5 Phos-4.1 Mg-1.4*
 
Brief Hospital Course:
Mr. ___ is a ___ w DM2 and refractory HTN with history of  
primary hyperaldosteronism  presented to pre-op holding at ___ 
___ for a Right laparoscopic adrenalectomy. He tolerated 
the procedure well without complications (Please see operative 
note for further details). After a brief and uneventful stay in 
the PACU, the patient was transferred to the floor for further 
post-operative management.
Neuro: Pain was well controlled on Tylenol and oxycodone for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.SBP 140-150's 
following surgery. Patient continued on clonidine, all other 
antihypertensive meds were held. 
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. He had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient diet was advanced to clears and to regular on POD#1 and 
well tolerated. Patient restarted on metformin POD #1, blood 
glucose levels were monitored and stable.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.to and tolerated a 
regular diet. Patient's intake and output were closely 
monitored.
GU: The patient had a Foley catheter that was removed prior to 
discharge. At time of discharge, the patient was voiding without 
difficulty. Urine output was monitored as 
Heme: The patient received subcutaneous heparin and ___ dyne 
boots 
during this stay. He was encouraged to get up and ambulate as 
early as possible. 
Hypomagnesemia: POD#1 magnesium 1.4, repleted with Magnesium 4g 
IV x1.
On POD#1, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic in 2 
weeks. This information was communicated to the patient directly 
prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. cloNIDine 0.3 mg transdermal 1 application once a week 
4. Simvastatin 80 mg PO DAILY 
5. Eplerenone 25 mg PO BID (Currently not taking)
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*6 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  CloNIDine 0.3 mg transdermal 1 APPLICATION ONCE A WEEK  
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Simvastatin 80 mg PO DAILY  
8. HELD- Eplerenone 25 mg PO BID  This medication was held. Do 
not restart Eplerenone until follow-up with PCP/cardiologist
9. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until follow-up with PCP/cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary Hyperaldosteronism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ following your laparoscopic Right 
adrenalectomy. You have tolerated a diet, voided and have good 
pain control and are ready to be discharged home to continue 
your recovery. The following is a summary of your discharge 
instructions.

Medications: Your continued on your CLONIDINE patch following 
your surgery. All other blood pressure medications are being 
held until you follow-up with your primary care provider who 
will determine if restarting these medications are necessary. 
Please check your blood pressure daily, if you notice your blood 
pressure is getting higher (systolic blood pressure greater than 
160) then please contact Dr. ___ for advice, 
___ .

Pain control: You can expect to have some incisional discomfort 
that may require pain medication for a few days after discharge. 
Tylenol should be sufficient to control your pain and or you may 
take oxycodone over the next few days as prescribed. For your 
gout pain you may take ibuprofen (Motrin) as directed.
.Wound:You have ___ laparoscopic surgical incisions on your 
abdomen which are closed with internal sutures.  It is important 
that you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/foul smelling drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. 

•Showering: You may shower at home starting tonight ___. You 
may shower; pat the incisions dry with a towel, do not rub. Tub 
baths can soak your incisions and therefore are not recommended 
in the first 4 weeks after surgery. 
•Activity: Taking walks is advised. Prolonged sitting or lying 
in bed should be avoided. Climbing stairs is possible but should 
be taken slowly. Driving should be avoided for at least one to 
two weeks after surgery. Absolutely no heavy lifting (greater 
than 20 pounds) or exercising (jogging, swimming, treadmill, 
biking) until instructed by your doctor. Most patients return to 
full activity on an average of  four-six weeks after surgery.

•Follow-up appointment: You have a scheduled follow-up 
appointment with your surgeon Dr. ___. Please also follow-up 
with your primary care provider for management of your gout 
flare.  

Best Wishes,
Your ___ Care Team
 
Followup Instructions:
___